US05232923
Ethyl 3,4-diacetoxyphenylpropionate and n-pentylamine were used in the procedure described in Example 1, to obtain N-n-pentyl-3,4-dihydroxyphenylpropionamide as an oily product.

reactant | Ethyl 3,4-diacetoxyphenylpropionate | C(C)(=O)OC=1C=C(C=CC1OC(C)=O)C(C(=O)OCC)C | C15H18O6
reactant | n-pentylamine | C(CCCC)N | C5H13N
product | N-n-pentyl-3,4-dihydroxyphenylpropionamide | C(CCCC)NC(C(C)C1=CC(=C(C=C1)O)O)=O | C14H21NO3
